US07732461B2
(c) Methyl 2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]-2-propenoate
A mixture of methyl[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]acetate (35.79 g, 143 mmol), benzyltriethylammonium chloride (51.5 g), potassium carbonate (30.4 g) and paraformaldehyde (30.4 g) in cyclohexane (1 litre) was stirred at 80° C. under argon overnight, cooled and shaken with water and ethyl acetate. After separation, the aqueous was re-extracted with ethyl acetate and the combined organic phases dried and evaporated. Chromatography, eluting with 15% ethyl acetate/hexane, provided the product (24.66 g, 66%).

reactant | methyl[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]acetate | 143 mmol, 35.79 g | COC(CC1=C(C=NC2=CC=C(N=C12)OC)F)=O | C12H11FN2O3
reactant | potassium carbonate | 30.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | paraformaldehyde | 30.4 g | C=O | CH2O
reactant | water | O | H2O
catalyst | benzyltriethylammonium chloride | 51.5 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | cyclohexane | 1 litre | C1CCCCC1 | C6H12
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]-2-propenoate | 24.66 g, 66% | FC=1C=NC2=CC=C(N=C2C1C(C(=O)OC)=C)OC | C13H11FN2O3
